US05686622
50 μl of 3-methylphenyl isocyanate are added to a round-bottomed flask containing 0.14 g of tert-butyl (2S,4S,5R)-3-(2-aminoacetyl)-5-methoxycarbonyl-4-phenyl-2-thiazolidinecarboxylate dissolved in 10 ml of tetrahydrofuran. The reaction mixture is stirred for 12 hours at a temperature in the region of 25° C. and then concentrated to dryness under reduced pressure at 35° C. The crude product is purified by chromatography on silica [eluent: ethyl acetate/cyclohexane (40/60 by volume)]. The fractions containing the expected product are combined and concentrated to dryness under reduced pressure at 40° C. 0.13 g of tert-butyl (2S,4S,5R)-5-methoxycarbonyl-3-{2-[3-(3-methylphenyl)ureido]acetyl}-4-phenyl-2-thiazolidinecarboxylate is thus obtained in the form of a white foam, [α]D25 =-9.5°±0.8° (c=1.0; CH3OH), 1H NMR: (200 MHz, (CD3)2SO with addition of a few drops of CD3COOD, at a temperature of 373 K, δ in ppm): 1.51 (s, 9H: CH3 of the tert-butyl); 2.28 (s, 3H: ArCH3); 3.69 and 4.05 (broad d and d respectively, J=17 Hz, 1H each: COCH2N); 3.78 (s, 3H: COOCH3); 4.31 (d, J=3.5 Hz, 1H: at C5 of the ring); 5.75 (s, 1H: H at C2 of the ring); 5.86 (d, J=3.5 Hz, 1H: H at C4 of the ring); 6.76 (broad d, J=7.5 Hz, 1H: aromatic H (H ortho to the CH3)); 7.10 (t, J=7.5 Hz, 1H: aromatic H (H meta to the CH3) ); from 7.10 to 7.50 (mt, 5H: aromatic H); 7.73 (mt, 2H: H ortho to the phenyl).

reactant | 3-methylphenyl isocyanate | 50 μl | CC=1C=C(C=CC1)N=C=O | C8H7NO
reactant | tert-butyl (2S,4S,5R)-3-(2-aminoacetyl)-5-methoxycarbonyl-4-phenyl-2-thiazolidinecarboxylate | 0.14 g | NCC(=O)N1[C@@H](S[C@H]([C@@H]1C1=CC=CC=C1)C(=O)OC)C(=O)OC(C)(C)C | C18H24N2O5S
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | tert-butyl (2S,4S,5R)-5-methoxycarbonyl-3-{2-[3-(3-methylphenyl)ureido]acetyl}-4-phenyl-2-thiazolidinecarboxylate | 0.13 g | COC(=O)[C@H]1[C@@H](N([C@@H](S1)C(=O)OC(C)(C)C)C(CNC(=O)NC1=CC(=CC=C1)C)=O)C1=CC=CC=C1 | C26H31N3O6S
